US09359375B2
A mixture of (R)-2-(3-bromo-4-cyanophenylamino)-4-methylpentanamide (120 mg, 0.387 mmol), 5-amino-3-methylisoxazole (60 mg, 0.612 mmol), sodium phenoxide trihydrate (100 mg, 0.588 mmol), xantphos (25 mg, 0.043 mmol) and Pd2(dba)3 (20 mg, 0.021 mmol) in dioxane (3 mL) was degassed with Ar, then was heated at 170 C for 15 min by microwave. It was concentrated in vacuo. The residue was purified by HPLC to give (R)-2-(4-cyano-3-(3-methylisoxazol-5-ylamino)phenylamino)-4-methylpentanamide (20 mg).

reactant | (R)-2-(3-bromo-4-cyanophenylamino)-4-methylpentanamide | 0.387 mmol, 120 mg | BrC=1C=C(C=CC1C#N)N[C@@H](C(=O)N)CC(C)C | C13H16BrN3O
reactant | 5-amino-3-methylisoxazole | 0.612 mmol, 60 mg | NC1=CC(=NO1)C | C4H6N2O
reactant | sodium phenoxide trihydrate | 0.588 mmol, 100 mg | O.O.O.[O-]C1=CC=CC=C1.[Na+]
reactant | xantphos | 0.043 mmol, 25 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.021 mmol, 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-2-(4-cyano-3-(3-methylisoxazol-5-ylamino)phenylamino)-4-methylpentanamide | 20 mg | C(#N)C1=C(C=C(C=C1)N[C@@H](C(=O)N)CC(C)C)NC1=CC(=NO1)C | C17H21N5O2
